US07169773B2
3-(1H-indazol-3-ylmethyl)-1-[2-(7-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepin -1-yl)-2-oxoethyl]-5-phenyl-1H-1,5-benzodiazepine-2,4(3H,5H)-dione
A solution of tert-butyl 3-({1-[2-(7-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl) -2-oxoethyl]-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-3-yl}methyl) -1H-indazole-1-carboxylate (47 mg) in methylene chloride (10 mL) was treated with trifluoroacetic acid (1 mL). The reaction was stirred for 45 minutes then concentrated to dryness. The residue was chromatographed on silica gel (Hexane:Ethyl Acetate) to yield a foamy oil. The foam was triturated with Ethyl Ether and filtered to yield the title compound as a white solid (12 mg).

reactant | tert-butyl 3-({1-[2-(7-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl) -2-oxoethyl]-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-3-yl}methyl) -1H-indazole-1-carboxylate | 47 mg | COC=1C=CC2=C(CCCCN2C(CN2C(C(C(N(C3=C2C=CC=C3)C3=CC=CC=C3)=O)CC3=NN(C2=CC=CC=C32)C(=O)OC(C)(C)C)=O)=O)C1 | C41H41N5O6
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(1H-indazol-3-ylmethyl)-1-[2-(7-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepin -1-yl)-2-oxoethyl]-5-phenyl-1H-1,5-benzodiazepine-2,4(3H,5H)-dione | 12 mg | N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)CC(=O)N1CCCCC3=C1C=CC(=C3)OC)C=CC=C2)C2=CC=CC=C2)=O | C36H33N5O4
